### PR TITLE
[Merged by Bors] - feat(RingTheory): hopf algebra definition

### PR DESCRIPTION
**Pull request by al-ramsey**
Add definition of a Hopf algebra. For FLT.

---

- [x] depends on: #10076

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Bialgebra.lean [hunk 1]
```diff
@@ -0,0 +1,140 @@
...
+/-!
+# Bialgebras
+
+In this file we define `Bialgebra`, and provide instances for:
+
+* Commutative semirings: `CommSemiring.toBialgebra`
+
+## References
+
+* <https://en.wikipedia.org/wiki/Bialgebra>
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Bialgebra.lean:18]:
```suggestion
* <https://en.wikipedia.org/wiki/Bialgebra>

## TODO

* Uniqueness of Hopf algebra structure on a bialgebra (i.e. if the algebra and coalgebra structures agree then the antipodes must also agree).

* S(1)=1 and S(ab)=S(b)S(a), so in particular if A is commutative then S is an algebra homomorphism.

* If H is commutative then S is necessarily a bijection (and I think its square must be the identity?)

References for these facts: Christian Kassel "Quantum Groups" (Springer GTM), around Prop III.3.1, Theorem III.3.4 etc.

```

File: Mathlib/RingTheory/HopfAlgebra.lean [hunk 2]
```diff
@@ -0,0 +1,76 @@
...
+
+/-- A Hopf algebra over a commutative (semi)ring `R` is a bialgebra over `R` equipped with a linear
+map `S` (the antipode of the Hopf algebra) satisfying the antipode axioms. -/
+class HopfAlgebra (R : Type u) (A : Type v) [CommSemiring R] [Semiring A] extends
+    Bialgebra R A where
+  /-- The antipode of the Hopf algebra -/
+  S : A →ₗ[R] A
+  /-- The antipode axioms for a Hopf algebra -/
+  mSid : (LinearMap.mul' R A) ∘ₗ (S.rTensor A) ∘ₗ comul = (Algebra.linearMap R A) ∘ₗ counit
+  midS : (LinearMap.mul' R A) ∘ₗ (S.lTensor A) ∘ₗ comul = (Algebra.linearMap R A) ∘ₗ counit
```
Comment (semorrison) [inline Mathlib/RingTheory/HopfAlgebra.lean:38]: I don't understand the choice of these field names. Could you replace them with something with underscores?

Perhaps `mul_rTensor_comul`, etc?

**Comment by semorrison** [comment]
Please also satisfy the linter!

File: Mathlib/RingTheory/HopfAlgebra.lean [hunk 3]
```diff
@@ -0,0 +1,67 @@
...
+
+/-- Every commutative (semi)ring is a Hopf algebra over itself -/
+noncomputable
+instance toHopfAlgebra : HopfAlgebra R R where
+  S := .id
+  mSid := by ext; simp
+  midS := by ext; simp
+
+@[simp]
+theorem S_apply (r : R) : S (R := R) r = r := rfl
```
[the remark this answers is not in the document]
Comment (kbuzzard) [reply Mathlib/RingTheory/HopfAlgebra.lean]: This is now `antipode_apply` and `R`, `A` are explicit in `antipode`.

File: Mathlib/RingTheory/HopfAlgebra.lean [hunk 4]
```diff
@@ -0,0 +1,94 @@
...
+
+/-- A Hopf algebra over a commutative (semi)ring `R` is a bialgebra over `R` equipped with a linear
+map `S` (the antipode of the Hopf algebra) satisfying the antipode axioms. -/
+class HopfAlgebra (R : Type u) (A : Type v) [CommSemiring R] [Semiring A] extends
+    Bialgebra R A where
+  /-- The antipode of the Hopf algebra -/
+  S : A →ₗ[R] A
+  /-- The antipode axioms for a Hopf algebra -/
+  mul_rTensor_comul :
+    (LinearMap.mul' R A) ∘ₗ (S.rTensor A) ∘ₗ comul = (Algebra.linearMap R A) ∘ₗ counit
```
Comment (eric-wieser) [inline Mathlib/RingTheory/HopfAlgebra.lean:51]:
```suggestion
    LinearMap.mul' R A ∘ₗ S.rTensor A ∘ₗ comul = Algebra.linearMap R A ∘ₗ counit
```
and below

File: Mathlib/RingTheory/HopfAlgebra.lean [hunk 5]
```diff
@@ -0,0 +1,94 @@
...
+  mul_lTensor_comul :
+    (LinearMap.mul' R A) ∘ₗ (S.lTensor A) ∘ₗ comul = (Algebra.linearMap R A) ∘ₗ counit
+
+namespace HopfAlgebra
+
+variable {R : Type u} {A : Type v} [CommSemiring R] [Semiring A] [H : HopfAlgebra R A]
+
+@[simp]
+theorem mul_rTensor_comul_apply (a : A) : LinearMap.mul' R A (S.rTensor A (H.comul a)) =
+    Algebra.linearMap R A (H.counit a) :=
```
Comment (eric-wieser) [inline Mathlib/RingTheory/HopfAlgebra.lean:61]:
```suggestion
theorem mul_rTensor_comul_apply (a : A) :
    LinearMap.mul' R A (S.rTensor A (H.comul a)) = algebraMap R A (H.counit a) :=
```
and below: wrapping at `:` is a bit clearer than wrapping at `=`, and `algebraMap` is the simp-normal form.

File: Mathlib/RingTheory/HopfAlgebra.lean [hunk 6]
```diff
@@ -0,0 +1,94 @@
...
+  S : A →ₗ[R] A
+  /-- The antipode axioms for a Hopf algebra -/
+  mul_rTensor_comul :
+    (LinearMap.mul' R A) ∘ₗ (S.rTensor A) ∘ₗ comul = (Algebra.linearMap R A) ∘ₗ counit
+  mul_lTensor_comul :
+    (LinearMap.mul' R A) ∘ₗ (S.lTensor A) ∘ₗ comul = (Algebra.linearMap R A) ∘ₗ counit
+
+namespace HopfAlgebra
+
+variable {R : Type u} {A : Type v} [CommSemiring R] [Semiring A] [H : HopfAlgebra R A]
```
Comment (eric-wieser) [inline Mathlib/RingTheory/HopfAlgebra.lean:57]: Naming instance arguments is usually a bad pattern:
```suggestion
variable {R : Type u} {A : Type v} [CommSemiring R] [Semiring A] [HopfAlgebra R A]
```

File: Mathlib/RingTheory/HopfAlgebra.lean [hunk 7]
```diff
@@ -0,0 +1,94 @@
...
+suppress_compilation
+
+universe u v
+
+/-- A Hopf algebra over a commutative (semi)ring `R` is a bialgebra over `R` equipped with a linear
+map `S` (the antipode of the Hopf algebra) satisfying the antipode axioms. -/
+class HopfAlgebra (R : Type u) (A : Type v) [CommSemiring R] [Semiring A] extends
+    Bialgebra R A where
+  /-- The antipode of the Hopf algebra -/
+  S : A →ₗ[R] A
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/RingTheory/HopfAlgebra.lean:48]: This also lets you delete the `def antipode` below.

File: Mathlib/RingTheory/HopfAlgebra.lean [hunk 8]
```diff
@@ -0,0 +1,94 @@
...
+* Uniqueness of Hopf algebra structure on a bialgebra (i.e. if the algebra and coalgebra structures
+agree then the antipodes must also agree).
+
+* S(1)=1 and S(ab)=S(b)S(a), so in particular if A is commutative then S is an algebra homomorphism.
+
+* If H is commutative then S is necessarily a bijection (and I guess its square must be the
+identity?)
+
+References for these facts: Christian Kassel "Quantum Groups" (Springer GTM), around Prop III.3.1,
+Theorem III.3.4 etc.
```
Comment (eric-wieser) [inline Mathlib/RingTheory/HopfAlgebra.lean:31]: can you add this to `references.bib`?

File: Mathlib/RingTheory/HopfAlgebra.lean [hunk 9]
```diff
@@ -0,0 +1,94 @@
...
+
+* `HopfAlgebra R A` : the Hopf algebra structure on an `R`-bialgebra `A`.
+* `HopfAlgebra.antipode R A` : The `R`-linear map `A →ₗ[R] A`
+
+## TODO
+
+* Uniqueness of Hopf algebra structure on a bialgebra (i.e. if the algebra and coalgebra structures
+agree then the antipodes must also agree).
+
+* S(1)=1 and S(ab)=S(b)S(a), so in particular if A is commutative then S is an algebra homomorphism.
```
Comment (eric-wieser) [inline Mathlib/RingTheory/HopfAlgebra.lean:25]:
```suggestion
* $S(1)=1$ and $S(ab)=S(b)S(a)$, so in particular if A is commutative then S is an algebra homomorphism.
```
or
```suggestion
* `S 1 = 1` and `S (a * b) = S b * S a`, so in particular if A is commutative then S is an algebra homomorphism.
```
so that this looks nice in the docs.

**Comment by eric-wieser** [comment]
This generally looks good, just some style suggestions. The TODO comment about S being an antiautomorphism would be great to have in this PR, but if the plan is to get some imperial undergrads working on them, I'm fine with this being merged without them.

File: Mathlib/RingTheory/HopfAlgebra.lean (hunk 6 above)
Comment (kbuzzard) [reply Mathlib/RingTheory/HopfAlgebra.lean:57]: This means that the comul and counit in theorems like `mul_rTensor_comul_apply` are now `Coalgebra.comul` etc (which is fine by me, but is this OK?)

**Comment by kbuzzard** [comment]
> This generally looks good, just some style suggestions. The TODO comment about S being an antiautomorphism would be great to have in this PR, but if the plan is to get some imperial undergrads working on them, I'm fine with this being merged without them.

Indeed some Imperial undergrads have proved this and I was hoping to let it be a separate PR.

File: Mathlib/RingTheory/HopfAlgebra.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/RingTheory/HopfAlgebra.lean:48]: In some sense that ship has already sailed; `comul` and `counit` don't make `R` and `A` explicit either, and we make do with `(R := R)` in a bunch of places.
My inclination would be to follow that pattern for now, and make a follow-up PR that adjusts all of them to be explicit at once.

File: Mathlib/RingTheory/HopfAlgebra.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/HopfAlgebra.lean]: They're the same `comul` . I'm pretty sure `H.comul` is desugaring to `H.toBiAlgebra.toCoalgebra.comul` anyway.

File: Mathlib/RingTheory/HopfAlgebra.lean (hunk 8 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/HopfAlgebra.lean:31]: I guess you can just copy

https://github.com/leanprover-community/mathlib4/blob/65037e3470a82737b4ce82d6a0c4e4f7534fbf47/docs/references.bib#L1812-L1825

with a different chapter number

Comment (kbuzzard) [reply Mathlib/RingTheory/HopfAlgebra.lean:31]: You already added it, but only chapter 2:
```text 
@InBook{          kasselTensorProducts1995,
  title         = {Tensor {{Products}}},
  booktitle     = {Quantum {{Groups}}},
  author        = {Kassel, Christian},
  year          = {1995},
  volume        = {155},
  pages         = {23--38},
  publisher     = {{Springer New York}},
  address       = {{New York, NY}},
  doi           = {10.1007/978-1-4612-0783-2_2},
  urldate       = {2023-09-28},
  collaborator  = {Kassel, Christian},
  isbn          = {978-1-4612-6900-7 978-1-4612-0783-2}
}
```
Should I delete this, replace with a reference to the entire book, and edit your reference to it in RingTheory.TensorProduct, in this PR?

Comment (eric-wieser) [reply Mathlib/RingTheory/HopfAlgebra.lean:31]: That sounds fine to me too.

File: Mathlib/RingTheory/HopfAlgebra.lean [hunk 10]
```diff
@@ -0,0 +1,95 @@
...
+
+/-- Every commutative (semi)ring is a Hopf algebra over itself -/
+noncomputable
+instance toHopfAlgebra : HopfAlgebra R R where
+  S := .id
+  mul_rTensor_comul := by ext; simp
+  mul_lTensor_comul := by ext; simp
+
+@[simp]
+theorem antipode_apply (r : R) : antipode R R r = r := rfl
```
Comment (eric-wieser) [inline Mathlib/RingTheory/HopfAlgebra.lean:93]: I think for providing downstream instances, it's going to be more helpful to have as a simp lemma that `antipode R R = .id`.

File: Mathlib/RingTheory/HopfAlgebra.lean (hunk 6 above)
Comment (kbuzzard) [reply Mathlib/RingTheory/HopfAlgebra.lean]: Oh I can quite believe this -- I was just checking it was OK.

File: Mathlib/RingTheory/HopfAlgebra.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (kbuzzard) [reply Mathlib/RingTheory/HopfAlgebra.lean]: I've followed the pattern, I'll open an issue soon.

File: Mathlib/RingTheory/HopfAlgebra.lean [hunk 11]
```diff
@@ -0,0 +1,91 @@
...
+# Hopf algebras
+
+In this file we define `HopfAlgebra`, and provide instances for:
+
+* Commutative semirings: `CommSemiring.toHopfAlgebra`
+
+# Main definitions
+
+* `HopfAlgebra R A` : the Hopf algebra structure on an `R`-bialgebra `A`.
+* `HopfAlgebra.antipode R A` : The `R`-linear map `A →ₗ[R] A`
```
Comment (eric-wieser) [inline Mathlib/RingTheory/HopfAlgebra.lean:18]:
```suggestion
* `HopfAlgebra.antipode` : The `R`-linear map `A →ₗ[R] A`
```

File: Mathlib/RingTheory/HopfAlgebra.lean [hunk 12]
```diff
@@ -0,0 +1,91 @@
...
+
+## TODO
+
+* Uniqueness of Hopf algebra structure on a bialgebra (i.e. if the algebra and coalgebra structures
+agree then the antipodes must also agree).
+
+* `S 1 = 1` and `S (a * b) = S b * S a`, so in particular if A is commutative then S is an
```
Comment (eric-wieser) [inline Mathlib/RingTheory/HopfAlgebra.lean:25]: `S` here and elsewhere should be `antipode`

File: Mathlib/RingTheory/HopfAlgebra.lean [hunk 13]
```diff
@@ -0,0 +1,91 @@
...
+map `S` (the antipode of the Hopf algebra) satisfying the antipode axioms. -/
+class HopfAlgebra (R : Type u) (A : Type v) [CommSemiring R] [Semiring A] extends
+    Bialgebra R A where
+  /-- The antipode of the Hopf algebra -/
+  antipode : A →ₗ[R] A
+  /-- The antipode axioms for a Hopf algebra -/
+  mul_rTensor_comul :
+    LinearMap.mul' R A ∘ₗ antipode.rTensor A ∘ₗ comul = (Algebra.linearMap R A) ∘ₗ counit
+  mul_lTensor_comul :
+    LinearMap.mul' R A ∘ₗ antipode.lTensor A ∘ₗ comul = (Algebra.linearMap R A) ∘ₗ counit
```
Comment (eric-wieser) [inline Mathlib/RingTheory/HopfAlgebra.lean:53]: This docstring will appear on one of the two fields, and doesn't really convey anything anyway.
On the other hand, these lemma names should contain `antipode`:
```suggestion
  mul_antipode_rTensor_comul :
    LinearMap.mul' R A ∘ₗ antipode.rTensor A ∘ₗ comul = (Algebra.linearMap R A) ∘ₗ counit
  mul_antipode_lTensor_comul :
    LinearMap.mul' R A ∘ₗ antipode.lTensor A ∘ₗ comul = (Algebra.linearMap R A) ∘ₗ counit
```
as should the `apply` versions below.

File: Mathlib/RingTheory/HopfAlgebra.lean [hunk 14]
```diff
@@ -0,0 +1,91 @@
...
+section CommSemiring
+
+variable (R : Type u) [CommSemiring R]
+
+open HopfAlgebra
+
+namespace CommSemiring
+
+/-- Every commutative (semi)ring is a Hopf algebra over itself -/
+noncomputable
```
Comment (eric-wieser) [inline Mathlib/RingTheory/HopfAlgebra.lean:82]:
```suggestion
```

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

I think the references.bib is not going to pass CI until you run `bibtool` against it to clean up the format.

File: Mathlib/RingTheory/HopfAlgebra.lean (hunk 11 above)
Comment (kbuzzard) [reply Mathlib/RingTheory/HopfAlgebra.lean:18]: Good catch!

File: Mathlib/RingTheory/HopfAlgebra.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (kbuzzard) [reply Mathlib/RingTheory/HopfAlgebra.lean]: I've started with a Zulip post.

https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/RFC.3A.20adjust.20argument.20explicitness.20on.20typeclass.20projections/near/423072202

File: Mathlib/RingTheory/HopfAlgebra.lean (hunk 12 above)
Comment (kbuzzard) [reply Mathlib/RingTheory/HopfAlgebra.lean:25]: OK we are now completely `S`-free!

**Comment by joelriou** [comment]
This looks good to me!

bors merge
